* Auto-generated SPICE Netlist
RR1 2 3 0
RR2 4 5 0
RR3 6 7 0
.MODEL Dmodel D(IS=1e-14)
.MODEL Qmodel NPN (BF=100)
.MODEL Mmodel NMOS (VTO=2)
.MODEL Zmodel D(BV=5 IBV=0.1m)
.END